US07569600B2
A suspension of 3-amino-5-bromo-thiophene-2-carboxylic acid methyl ester (17.0 g, 72.0 mmol) in dry THF (21 ml) was treated with 1,4-cyclohexanedione monoethylene ketal (11.3 mg, 72.0 mmol), followed by dibutyltin dichloride (1.098 gr, 3.6 mmol). After 5 min, phenyl silane (9.74 ml, 79.2 mmol) was added and the reaction mixture was stirred overnight at room temperature. After concentration, the residue was dissolved in EtOAc washed with NaHCO3 then brine. The organic layer was separated, dried on Na2SO4, filtered and concentrated. The crude material was diluted in hexane (500 ml). After filtration, the mother liquor was evaporated to dryness to give 5-Bromo-3-(1,4-dioxa-spiro[4.5]dec-8-ylamino)-thiophene-2-carboxylic acid methyl ester (24.79 g, 92% yield). 1H NMR (CDCl3, 400 MHz): 6.90 (br s, 1H), 6.65 (s, 1H), 3.95 (s, 4H), 3.78 (s, 3H), 3.35 (m, 1H), 2.00 (m, 2H), 1.80 (m, 2H), 1.65 (m, 4H).

reactant | 3-amino-5-bromo-thiophene-2-carboxylic acid methyl ester | 72.0 mmol, 17.0 g | COC(=O)C=1SC(=CC1N)Br | C6H6BrNO2S
reactant | 1,4-cyclohexanedione monoethylene ketal | 72.0 mmol, 11.3 mg | C1COC2(CCC(CC2)=O)O1 | C8H12O3
reactant | phenyl silane | 79.2 mmol, 9.74 ml | C1(=CC=CC=C1)[SiH3] | C6H8Si
solvent | THF | 21 ml | C1CCOC1 | C4H8O
catalyst | dibutyltin dichloride | 3.6 mmol, 1.098 gr | C(CCC)[Sn](CCCC)(Cl)Cl
product | 5-Bromo-3-(1,4-dioxa-spiro[4.5]dec-8-ylamino)-thiophene-2-carboxylic acid methyl ester | 24.79 g, 92% yield | COC(=O)C=1SC(=CC1NC1CCC2(OCCO2)CC1)Br | C14H18BrNO4S
